US04472446
PREPARATION OF 4-METHYL-2-(METHYLTHIOMETHYL)-1,3-DITHIOLANE
Into a 100 ml reaction flask equipped with reflux condensor, heating mantle, hot plate equipped with magnetic stirring apparatus and magnetic stirring bar is placed 10 ml cyclohexane, 0.5 grams of para toluene sulfonic acid and 10.8 grams (0.1 mole) of 1,2-propanedithiol. Over a period of one hour, 9 grams (0.1 mole) of methylthioacetaldehyde is added to the reaction mass. The reaction mass is then heated to reflux and maintained at reflux for a period of eight hours. At the end of the eight hour period the reaction mass is transferred to a separatory funnel and washed with one 50 ml portion of a saturated aqueous sodium chloride solution, then dried over anhydrous sodium sulfate, filtered and distilled. The distillation takes place on a micro vigreux column yielding the following fractions:

reactant | para toluene sulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,2-propanedithiol | 0.1 mole, 10.8 grams | C(C(C)S)S | C3H8S2
reactant | methylthioacetaldehyde | 0.1 mole, 9 grams | CCC=S | C3H6S
solvent | cyclohexane | 10 ml | C1CCCCC1 | C6H12
product | 4-METHYL-2-(METHYLTHIOMETHYL)-1,3-DITHIOLANE | CC1SC(SC1)CSC | C6H12S3
